US05041460
Sodium borohydride (0.027 g) was added to a stirred solution of methyl 4-[5-(formylmethyl)-1-propylindol-3-ylmethyl]-3-methoxybenzoate (0.54 g) in methanol (15 ml) under a nitrogen atmosphere. After 30 min, the solvent was evaporated. The residue was dissolved in ethyl acetate, washed with water (twice), brine, and then dried (MgSO4) and evaporated. The product was purified by flash chromatography, eluting with 7:3 hexane:ethyl acetate, to give methyl 4-[5-(2-hydroxyethyl)-1-propylindol-3-ylmethyl]-3-methoxybenzoate (0.35 g, 65%) as an oil: partial NMR (300 MHz, DMSO-d6): 0.80(t, 3H, CH3), 1.70(m, 2H, CH2), 2.74(t, 2H, CH2), 3.56(t, 2H, CH2), 3.83(s, 3H, OCH3), 3.91(s, 3H, OCH3), 4.03(m, 4H, NCH2, ArCH2Ar').

reactant | Sodium borohydride | 0.027 g | [BH4-].[Na+]
reactant | methyl 4-[5-(formylmethyl)-1-propylindol-3-ylmethyl]-3-methoxybenzoate | 0.54 g | C(=O)CC=1C=C2C(=CN(C2=CC1)CCC)CC1=C(C=C(C(=O)OC)C=C1)OC | C23H25NO4
solvent | methanol | 15 ml | CO | CH4O
product | methyl 4-[5-(2-hydroxyethyl)-1-propylindol-3-ylmethyl]-3-methoxybenzoate | 0.35 g, 65% | OCCC=1C=C2C(=CN(C2=CC1)CCC)CC1=C(C=C(C(=O)OC)C=C1)OC | C23H27NO4
